US09233098B2
1. Preparation of ethyl 2-[2-methyl-3-[4-[4-(trifluoromethyl)benzamido]benzyl]-1H-indol-1-yl]acetate
In a dry reaction vessel, ethyl 2-[3-(4-aminobenzyl)-2-methyl-1H-indol-1-yl]acetate (1.0 g, 3.11 mmol) was added, and dissolved in 15 mL dichloromethane. Triethylamine (1.3 mL, 9.34 mmol) was added, and in an ice bath a dichloromethane solution dissolving 4-trifluoromethylbenzoyl chloride (0.649 g, 3.11 mmol) was added slowly. After completion of dropwise addition, it was reacted in an ice bath for 4 h, and filtered. An aqueous solution of sodium bicarbonate was added, extracted with dichloromethane, rotate evaporated to dryness, chromatographed on a column to obtain a white solid 1.15 g, at a yield of 74.9%.

reactant | ethyl 2-[3-(4-aminobenzyl)-2-methyl-1H-indol-1-yl]acetate | 3.11 mmol, 1.0 g | NC1=CC=C(CC2=C(N(C3=CC=CC=C23)CC(=O)OCC)C)C=C1 | C20H22N2O2
reactant | Triethylamine | 9.34 mmol, 1.3 mL | C(C)N(CC)CC | C6H15N
reactant | 4-trifluoromethylbenzoyl chloride | 3.11 mmol, 0.649 g | FC(C1=CC=C(C(=O)Cl)C=C1)(F)F | C8H4ClF3O
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | ethyl 2-[2-methyl-3-[4-[4-(trifluoromethyl)benzamido]benzyl]-1H-indol-1-yl]acetate | 1.15 g, yield of 74.9% | CC=1N(C2=CC=CC=C2C1CC1=CC=C(C=C1)NC(C1=CC=C(C=C1)C(F)(F)F)=O)CC(=O)OCC | C28H25F3N2O3
